US05051422
4-Butyl-1-(3,4-dimethoxyphenyl)-2-piperazinemethanamine
In a manner similar to preparation 2, react 4-butyl-1-(3,4-dimethoxyphenyl)-2-piperazinecarbonitrile with lithium aluminum hydride to obtain the title compound.

reactant | 4-butyl-1-(3,4-dimethoxyphenyl)-2-piperazinecarbonitrile | C(CCC)N1CC(N(CC1)C1=CC(=C(C=C1)OC)OC)C#N | C17H25N3O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-Butyl-1-(3,4-dimethoxyphenyl)-2-piperazinemethanamine | C(CCC)N1CC(N(CC1)C1=CC(=C(C=C1)OC)OC)CN | C17H29N3O2
